US05108486
To a stirred solution of 20.0 g (0.180 mole) of catechol and 0.8 g (0.40 mole) of 2-butanone in 200 ml of methylene chloride was added 128.0 g (0.902 mole) of phosphorus pentoxide. The reaction mixture was stirred at room temperature for two days. The stirring was stopped, and the reaction solids were allowed to settle. The reaction mixture was decanted into a separatory funnel. The solid material was washed with methylene chloride, and the wash was decanted into the above separatory funnel. The combined organic phase was washed with aqueous, saturated sodium bicarbonate solution. The washed organic phase was dried over anhydrous magnesium sulfate and was filtered. The filtrate was evaporated under reduced pressure to yield 17.3 g of 2-ethyl-2-methyl-1,3-benzodioxole.

reactant | catechol | 0.180 mole, 20.0 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | 2-butanone | 0.40 mole, 0.8 g | CC(CC)=O | C4H8O
reactant | phosphorus pentoxide | 0.902 mole, 128.0 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-ethyl-2-methyl-1,3-benzodioxole | 17.3 g | C(C)C1(OC2=C(O1)C=CC=C2)C | C10H12O2
